US07018988B2
(2S,4EZ)-4-{[(4-methoxybenzyl)oxy]imino}-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-N-(6-quinolinyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride, and 6-quinolinamine the title compound was obtained in 61% purity by LC/MS. MS(ESI+): m/z=583.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC=C(C=C1)OC)C(=O)O | C18H24N2O6
reactant | 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride | O=C1OC(=CC=C1C(=O)Cl)CCCCC | C11H13ClO3
reactant | 6-quinolinamine | N1=CC=CC2=CC(=CC=C12)N | C9H8N2
product | (2S,4EZ)-4-{[(4-methoxybenzyl)oxy]imino}-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-N-(6-quinolinyl)-2-pyrrolidinecarboxamide | COC1=CC=C(CON=C2C[C@H](N(C2)C(=O)C=2C(OC(=CC2)CCCCC)=O)C(=O)NC=2C=C3C=CC=NC3=CC2)C=C1 | C33H34N4O6
